US05958375
a. N,N'-bis[3-nitro-5-(1,3-dihydroxyprop-2-ylaminocarbonyl)phenyl]urea
The reaction was performed analogous to the synthesis described above for Example 10c starting from N,N'-bis(3-nitro-5-methoxycarbonylphenyl)urea (12.0 g, 28.7 mmol) and serinol (6.83 g, 75 mmol). The crude reaction product was purified by trituration with acetonitrile (2×50 ml), with water (200 ml) and with acetonitrile (3×50 ml) to give 95% pure product. Yield: 12.0 g (78%).

reactant | N,N'-bis(3-nitro-5-methoxycarbonylphenyl)urea | 28.7 mmol, 12.0 g | [N+](=O)([O-])C=1C=C(C=C(C1)C(=O)OC)NC(=O)NC1=CC(=CC(=C1)C(=O)OC)[N+](=O)[O-] | C17H14N4O9
reactant | serinol | 75 mmol, 6.83 g | NC(CO)CO | C3H9NO2
product | N,N'-bis[3-nitro-5-(1,3-dihydroxyprop-2-ylaminocarbonyl)phenyl]urea | 95% | [N+](=O)([O-])C=1C=C(C=C(C1)C(=O)NC(CO)CO)NC(=O)NC1=CC(=CC(=C1)C(=O)NC(CO)CO)[N+](=O)[O-] | C21H24N6O11
